US05739228
Hy method A [Lawesson's reagent]. Benzyl benzoate (2.1 g) was heated at 140° C. for 24 h with Lawesson's Reagent (4.9 g) in anhydrous xylene (10 ml). After removal of the solvent and subjection of the mixture to chromatography on silica gel and recrystallization from pentane at low temperature, benzyl thionobenzoate was obtained in 67% yield. 1H NMR (CDCl3): δ=5.64 (s, 2H), 7.3-8.2 (m, 10H).

reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | Benzyl benzoate | 2.1 g | C(C1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C14H12O2
reactant | Lawesson's Reagent | 4.9 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | benzyl thionobenzoate | 67% yield | S=C1C(C(=O)OCC2=CC=CC=C2)C=CC=C1 | C14H12O2S
